US05654307
A suspension of 7-fluoro-4-oxo-3H-pyrido[4,3-d]pyrimidine (0.23 g, 1.39 mmol) in POCl3 (10 mL) is stirred under reflux for 3.5 h, and is then concentrated under vacuum. The resulting oil is ice-cooled, diluted with CH2Cl2 (100 mL), saturated aqueous Na2CO3 (40 mL) and ice, and stirred at 20° C. for 2 h. The CH2Cl2 extract is separated and the aqueous portion further extracted with CH2Cl2 (2×100 mL), and then the combined extracts are dried (Na2SO4) and filtered to give crude 4-chloro-7-fluoropyrido[4,3-d]pyrimidine. 3-Bromoaniline (1.26 g, 7.35 mmole), 3-bromoaniline hydrochloride (20 mg) and dry isopropanol (5 mL) are added, then the resulting solution is concentrated under vacuum to remove the CH2Cl2 and stirred at 20° C. for 1 h. Upon addition of dilute NaHCO3 and water, the product crystallises. Filtration, washing with water and CH2Cl2, gives pure 4-(3-bromoanilino)-7-fluoropyrido[4,3-d]pyrimidine (297 mg, 67%) as a cream solid. 1H NMR (DMSO) δ 10.38 (1H, brs), 9.59 (1H, s), 8.72 (1H, s), 8.17 (1H, s), 7.85 (1H, m), 7.38 (3H, m).

reactant | 7-fluoro-4-oxo-3H-pyrido[4,3-d]pyrimidine | 1.39 mmol, 0.23 g | FC1=CC=2N=CNC(C2C=N1)=O | C7H4FN3O
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-7-fluoropyrido[4,3-d]pyrimidine | ClC=1C2=C(N=CN1)C=C(N=C2)F | C7H3ClFN3
